US07638515B2
5-{[5-Methoxy-2-hydroxy-2-(trifluoromethyl)-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one
Analogously to Example 10, the corresponding imine is produced starting from 600 mg of 4-(3-methyl-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 316 mg of 5-amino-2-methylphthalazin-1-one. As in Example 3, 460 mg of the imine is reacted by reaction with 5.2 ml of titanium tetrachloride (1 M in dichloromethane) in 23 ml of dichloromethane, and 36 mg of title compound is obtained.

reactant | 4-(3-methyl-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 600 mg | CC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C15H19F3O3
reactant | 5-amino-2-methylphthalazin-1-one | 316 mg | NC1=C2C=NN(C(C2=CC=C1)=O)C | C9H9N3O
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1 M, 5.2 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[5-Methoxy-2-hydroxy-2-(trifluoromethyl)-4,4,6-trimethyl-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-2-methylphthalazin-1-one | 36 mg | COC1=C2C(CC(C(C2=CC=C1C)NC1=C2C=NN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C | C24H26F3N3O3
